US04808723
Preparation of 2-amino-5-nitrobenzothiazole
A solution of 10 g of 2,4-dinitrothiophenol and 7.6 g of thiourea in 50 ml of dimethylformamide is heated at 120° C. for 3 hours. The mixture is diluted with 300 ml of water, and the solid is filtered off with suction and washed with water. 7.3 g of crude 2-amino-5-nitrobenzothiazole, the identity of which was confirmed by TLC comparison with authentic material, are obtained.

reactant | 2,4-dinitrothiophenol | 10 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])S | C6H4N2O4S
reactant | thiourea | 7.6 g | NC(=S)N | CH4N2S
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | 2-amino-5-nitrobenzothiazole | NC=1SC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C7H5N3O2S
